US04621901
A mixture of 1.9 g of p-(4-pentenyl)benzonitrile and a 10% solution of potassium hydroxide in diethylene glycol was boiled at 180° C. for 2 hours. The reaction mixture was then cooled to room temperature, adjusted to pH 3 with 23% hydrochloric acid, diluted with water and extracted four times with methylene chloride. The organic phases were washed twice with water, dried over magnesium sulphate, filtered and concentrated, whereby 2.12 g of p-(4-pentenyl)benzoic acid were isolated as brown crystals.

reactant | p-(4-pentenyl)benzonitrile | 1.9 g | C(CCC=C)C1=CC=C(C#N)C=C1 | C12H13N
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | diethylene glycol | C(COCCO)O | C4H10O3
solvent | water | O | H2O
product | p-(4-pentenyl)benzoic acid | 2.12 g | C(CCC=C)C1=CC=C(C(=O)O)C=C1 | C12H14O2
